US06087380
1-Methyl-2-[2-(4-amidinophenyl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 26 from 1-methyl-2-[2-(4-amidinophenyl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 71% of theory, C27H27N5O3 (469.6) ##EQU41##

reactant | 1-methyl-2-[2-(4-amidinophenyl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-Methyl-2-[2-(4-amidinophenyl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 71% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)O | InChI=1S/C27H27N5O3.ClH/c1-31-23-13-12-20(27(35)32(16-15-25(33)34)21-5-3-2-4-6-21)17-22(23)30-24(31)14-9-18-7-10-19(11-8-18)26(28)29;/h2-8,10-13,17H,9,14-16H2,1H3,(H3,28,29)(H,33,34);1H
